US09328124B2
2-Chloro-5-fluoro-4-methoxy-6-methyl-pyrimidine
Sodium methoxide (446.53 mg, 8.27 mmol) is added portion wise to a stirred solution of 2,4-dichloro-5-fluoro-6-methyl-pyrimidine (1.7 g, 7.51 mmol) in methanol (8 mL, 197.66 mmol) at 0° C. The mixture is then stirred at room temperature for 1 hour. Water (20 mL) is added to the reaction mixture followed by dichloromethane. The layers are separated and the aqueous layer is re-extracted with dichloromethane. The combined organic extracts are dried over magnesium sulfate and the solvents are evaporated under reduced pressure to give an 8:1 of mixture of product to starting material. The crude material is purified by silica gel chromatography using a 0-99% gradient of dichloromethane in iso-hexanes to give the title compound (1.16 g, 87%). 1H NMR (CDCl3) δ 4.09 (s, 3H), 2.45 (d, 3H).

reactant | Sodium methoxide | 8.27 mmol, 446.53 mg | C[O-].[Na+]
reactant | 2,4-dichloro-5-fluoro-6-methyl-pyrimidine | 7.51 mmol, 1.7 g | ClC1=NC(=C(C(=N1)Cl)F)C | C5H3Cl2FN2
reactant | methanol | 197.66 mmol, 8 mL | CO | CH4O
reactant | Water | 20 mL | O | H2O
solvent | dichloromethane | ClCCl | CH2Cl2
product | 2-Chloro-5-fluoro-4-methoxy-6-methyl-pyrimidine | 1.16 g, 87% | ClC1=NC(=C(C(=N1)OC)F)C | C6H6ClFN2O
